US04703055
Step 2: N-(CYANOMETHYL) 2-ACETOXY 4-ACETAMINO 5-CHLOROBENZAMIDE
104 g of triethylamine and 890 cc of chloroform were introduced into a 3 liter balloon flask provided with a sealed agitator, a reflux condenser and a thermometer. The solution obtained was cooled to 5° C. 51 g of amino acetonitrile hydrochloride was then gradually added, with the temperature being maintained at between 5° and 10° C. Thereafter over a period of 30 minutes and at a temperature of between 0° and 5° C., 143 g of 2-acetoxy 4-acetamino 5-chlorobenzoyl chloride in finely divided form was added. A dark-coloured solution resulted, which was agitated, first, for a period of 2 hours at 10° C. and, thereafter, for 2 hours at ambient temperature.

reactant | triethylamine | 104 g | C(C)N(CC)CC | C6H15N
reactant | amino acetonitrile hydrochloride | 51 g | Cl.NCC#N
reactant | 2-acetoxy 4-acetamino 5-chlorobenzoyl chloride | 143 g | C(C)(=O)OC1=C(C(=O)Cl)C=C(C(=C1)NC(=O)C)Cl | C11H9Cl2NO4
solvent | chloroform | 890 cc | C(Cl)(Cl)Cl | CHCl3
product | N-(CYANOMETHYL) 2-ACETOXY 4-ACETAMINO 5-CHLOROBENZAMIDE | C(#N)CNC(C1=C(C=C(C(=C1)Cl)NC(=O)C)OC(C)=O)=O | C13H12ClN3O4
